US09029536B2
D) N-[4-(1-Methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)phenyl]-1,3-benzoxazol-2-amine hydrochloride
A mixture of 4-(1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)aniline (70 mg) and 2-chlorobenzo[d]oxazole (57 mg) in 1-methylpyrrolidinone (2 mL) was stirred at 120° C. for 30 min. After this time, the reaction was cooled to room temperature, diluted with AcOEt (50 mL), washed with saturated NaHCO3 aqueous solution (50 mL), water (2×50 mL) then brine (50 mL), dried over Na2SO4, filtered and the filtrate was concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography (CH2Cl2 to 1:19 MeOH/CH2Cl2), dissolved in 1,4-dioxane (2 ml), treated with 4 M HCl in 1,4-dioxane (0.500 mL, 2.00 mmol) and concentrated under reduced pressure. The residue obtained was triturated with boiling is CH3CN to give the title compound (60 mg).

reactant | 4-(1-methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)aniline | 70 mg | CN1C=C(C2=NC=CC=C21)C2=CC=C(N)C=C2 | C14H13N3
reactant | 2-chlorobenzo[d]oxazole | 57 mg | ClC=1OC2=C(N1)C=CC=C2 | C7H4ClNO
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 2.00 mmol, 0.500 mL | O1CCOCC1 | C4H8O2
solvent | 1-methylpyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
product | N-[4-(1-Methyl-1H-pyrrolo[3,2-b]pyridin-3-yl)phenyl]-1,3-benzoxazol-2-amine hydrochloride | 60 mg | Cl.CN1C=C(C2=NC=CC=C21)C2=CC=C(C=C2)NC=2OC1=C(N2)C=CC=C1 | InChI=1S/C21H16N4O.ClH/c1-25-13-16(20-18(25)6-4-12-22-20)14-8-10-15(11-9-14)23-21-24-17-5-2-3-7-19(17)26-21;/h2-13H,1H3,(H,23,24);1H
